US08110687B2
To a solution of 6-hydroxy-1,2,3,4-tetrahydroisoquinoline-3-carboxylic acid (prepared as described by Ornstein et al. in J. Org. Chem. 1991, 56, 4388-4392, 1.0 g, 5.2 mmol) in THF (25 mL) and water (25 mL) was added NaHCO3 (870 mg, 10.4 mmol) and BOC anhydride (1.24 g, 5.7 mmol). The reaction was allowed to stir for 18 h. Water and DCM were added and the mixture was acidified to pH 4 by the addition of 1N HCl solution. The mixture was extracted with DCM (2×) and the combined organic solutions were dried over Na2SO4 and concentrated to give 2-(tert-Butoxycarbonyl)-6-hydroxy-1,2,3,4-tetrahydroisoquinoline-3-carboxylic acid as a white solid (1.35 g, 89%). 1H NMR (300 MHz, d6-DMSO): δ 12.58 (s, 1H), 9.25 (s, 1H), 6.99-6.93 (m, 1H), 6.95-6.54 (m, 2H), 5.57-4.17 (m, 3H), 3.06-2.92 (m, 2H), 1.44 and 1.37 (s, 9H).

reactant | 6-hydroxy-1,2,3,4-tetrahydroisoquinoline-3-carboxylic acid | 5.2 mmol, 1.0 g | OC=1C=C2CC(NCC2=CC1)C(=O)O | C10H11NO3
reactant | NaHCO3 | 10.4 mmol, 870 mg | C(=O)(O)[O-].[Na+]
reactant | BOC anhydride | 5.7 mmol, 1.24 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | HCl | 1N | Cl | ClH
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | water | 25 mL | O | H2O
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 2-(tert-Butoxycarbonyl)-6-hydroxy-1,2,3,4-tetrahydroisoquinoline-3-carboxylic acid | 1.35 g, 89% | C(C)(C)(C)OC(=O)N1CC2=CC=C(C=C2CC1C(=O)O)O | C15H19NO5
